US09328138B2
Step 1: ethyl 3-[(2-fluorophenyl)amino]-3-oxopropanoate
To a solution of 2-fluoroaniline (8.67 ml) in ethyl acetate (266 ml) was added water (200 ml) and sodium bicarbonate (15.12 g). Ethyl malonyl chloride (13.82 ml) was added and the solution was stirred at room temperature for 1 hour. The two layers were separated and the organic phase was washed with a saturated aqueous solution of sodium bicarbonate, water and brine, dried over sodium sulfate and evaporated to provide a brownish oil. The crude reaction mixture was used directly in the next step. LRMS (ES+) m/z 226.1 (M+H)+.

reactant | 2-fluoroaniline | 8.67 ml | FC1=C(N)C=CC=C1 | C6H6FN
reactant | water | 200 ml | O | H2O
reactant | sodium bicarbonate | 15.12 g | C([O-])(O)=O.[Na+]
reactant | Ethyl malonyl chloride | 13.82 ml | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | ethyl acetate | 266 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 3-[(2-fluorophenyl)amino]-3-oxopropanoate | FC1=C(C=CC=C1)NC(CC(=O)OCC)=O | C11H12FNO3
